Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides
 
Attending: ___.
 
Chief Complaint:
Fatigue and neck/back pain
 
Major Surgical or Invasive Procedure:
persantine MIBI

 
History of Present Illness:
Ms. ___ is a ___ y.o woman with CAD s/p MI & stents to LCX & 
OM1, HTN, afib-on coumadin, HL, DM2 who presented to the ED for 
evaluation of fatigue/weakness and upper neck pain. She states 
that she has been incredibly stressed lately and extremely 
anxious, unable to sleep or relax at all (related to very heavy 
family responsibilities). She has been having intermittent 
discomfort in her upper neck/between shoulder blades x several 
weeks. She states that the pain is dull/achy, up to ___ in 
severity, it tends to happen with emotional stress or with 
fatigue, not exertion. It can last for hours, and is generally 
relieved with resting for 10 minutes in bed. She denies any 
associated dyspnea, nausea, diaphoresis. She has been having 
this pain multiple times a day for several weeks. She states 
that this feels dissimilar to the pain she had with her MI's (L 
shoulder/arm pain). She had this pain in the ambulance and it 
was relieved with nitroglycerine; she had it again on the floor 
and it was relieved partially with sL nitroglycerine.  
.  
The reason she presented to the ED was today around noon she was 
cooking and she felt suddenly very weak and limp. She denies any 
light-headedness or presyncope. She laid down, but the fatigue 
persisted along with severe anxiety. Around 4:00pm she decided 
to call an ambulance because she was worried about the fatigue. 
She states that the fatigue improved in the ambulance after 
getting oxygen and nitroglycerine.  
.  
In the ED T 98.4, HR 85, BP 157/99, 100% on NRB. She was given 
aspirin & nitro in the ambulance, was given no medications in 
the ED, was admitted to ___. On the floor she complained of 
___ neck pain, which resolved with 1 sL nigroglycerine. She 
denied the severe fatigue she felt earlier in the day.  

On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Past Medical History:
1.  Coronary artery disease, status post myocardial infarction 
in ___ with ventricular fibrillation arrest. Status post 
myocardial infarction in ___.  Status post myocardial 
infarction in ___ at that time, she underwent cardiac 
catheterization which showed left circumflex and obtuse marginal 
disease.  She received
percutaneous transluminal coronary angioplasty and stent to both 
vessels.  Catheterization was complicated by transient no flow 
and embolization of the stent, during which she had some chest 
pressure and hypertension which resolved with atropine.  Her 
last stress test was in ___ which showed an ejection 
fraction of 40% and a fixed apical anterior defect.  
Echocardiogram showed mild mitral
regurgitation.
2.  Atrial fibrillation, on coumadin.
3.  Diabetes mellitus.
4.  History of lymphocytosis.
5.  Admitted in ___ for right partial nephrectomy
for a mass, which on pathology was renal cell carcinoma
(clear type).  Her postoperative period was complicated by
rapid atrial fibrillation with congestive heart failure.  She
was transferred to the Medicine Service at that time.
6.  Hypertension.
7.  Hyperparathyroidism with hypercalcemia.
8.  Status post cholecystectomy.
9.  Congestive heart failure with LVEF 40% to 50% per 
echocardiogram ___.
10.  Hyperlipidemia.
11.  Gastroesophageal reflux disease.
12.  Depression.
13.  Fever of unknown origin.
14.  Possible sleep apnea.
15.  Nephrolithiasis.
 
Social History:
___
Family History:
Sister with MI in ___. Sister with CABG in ___. Son with 
schizophrenia, ___ disease. Son with ___ lymphoma. 
 
Physical Exam:
VS: AF BP 197/111, HR 95, RR 22, 98% on RA  
GENERAL: WDWN older woman in NAD. Oriented x3. Mood anxious, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 12 cm (near angle of jaw).  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. irregular rhythm, normal S1, S2. grade III/VI holosystolic 
murmur heard at ___. No thrills, lifts. No S3 or S4.  
LUNGS: prominent kyphoscoliosis. Resp were unlabored, no 
accessory muscle use. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No trace to 1+ BLE edema. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
p-MIBI
Fixed defect in the apical segment, unchanged. No reversible 
defects
identified. Prominent right ventricle identified.  No anginal 
type symptoms or ischemic EKG changes. Nuclear
report sent separately.

ECG: Atrial fibrillation, normal axis and intervals. rate 95 
BPM, Q in III. poor RW progression, otherwise no ST/TW changes. 
Unchanged from baseline 

ETT: ___ exercise MIBI  
IMPRESSION: 1) Severe, fixed perfusion defect at the apex. 2) 
Mild, partially reversible perfusion defect in the septum. 3) No 
change in comparison to the prior study of ___. /nkg  
.  
CARDIAC CATH:  
___ cardiac cath  
COMMENTS: 1. Coronary arteriography of this co-dominant system  
demonstrated three vessel disease. The LMCA was free of 
significant  
disease. The LAD had a tubular proximal 80% stenosis and was 
then  
occluded in its mid-portion after a large first septal branch. 
The  
circumflex had a 70% stenosis in its mid-portion at the origin 
of the  
OM1 which had been stented previously. The OM1 stent itself had 
mild  
in-stent restenosis of 30% severity. The more distal circumflex 
stent was widely patent. The proximal to mid-RCA was diffusely 
diseased, most significantly at the level of the acute marginal, 
with up to a 50-60% stenosis.  
2. Limited resting hemodyanmics demonstrated severe systemic 
arterial  
hypertension (200/90 mm Hg).  
3. Successful PTCA and stenting of the mid-circumflex using a 
3.5 x 8 mm BX Velocity stent, with plaque shift into the stented 
OM1 branch,  
necessitating PTCA of the OM1 using a 3.0 mm Maverick balloon, 
with 0% residual stenosis in the circumflex, 10% residual 
stenosis in the OM1, no evidence of dissection and normal flow 
(see PTCA comments).  
FINAL DIAGNOSIS:  
1. Three vessel coronary artery disease.  
2. Successful PTCA and stenting of the circumflex with rescue 
PTCA of  
the first obtuse marginal branch.  

 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with PMH significant for CAD 
s/p PCI, DM 2, HTN, HLD, and afib on coumadin admitted with 
fatigue and neck/upper back pain.

1. Fatige/Neck and back pain: Non-specific symptoms including 
sudden fatigue and neck/back discomfort could represent anginal 
equivalents, especially as she has had past symptoms with MIs. 
The patient had negative cardiac biomarkers x3 with unchanged 
serial ECGs during her admission, making ACS unlikely. She also 
had a p-MIBI that was unchanged from prior.  She was discharged 
with instructions to follow-up with her outpatient cardiologist.

2. CAD: Patient has significant history for MI with 3VD per last 
cardiac catherization. She was continued on ASA, lisinopril, 
carvedilol, and statin during her admission.  As stated above, 
she was ruled out for ACS and had an unchanged p-MIBI.

3. Pump: Last TTE per OMR in ___ with LVEF 40-50% with mild to 
moderate TR.  On exam, she has an elevated JVP with some 
peripheral edema, suggestive of mild volume overload. She was 
continued on carvedilol, lisinopril, and lasix during her 
admission.

4. Rhythmn: Chronic afib on coumadin at home. Coumadin held 
initially for possible cardiac intervention, but was restarted 
on discharge. She was continued on carvedilol. 

5. Diabetes, type 2: Covered with ISS during admission.  Orals 
held and restarted on discharge.

6. HTN: Continued on  carvedilol, nitro patch and lisinopril

7. HLD: Continued on statin

8. Anxiety: Patient seen by social work during admission.
 
Medications on Admission:
Carvedilol 6.25mg po bid  
lasix 20mg po daily  
glipizide 5mg po daily  
lisinopril 20mg po daily  
lovastatin 10mg po daily  
nitro patch 0.4mg/hour  
aspirin 81mg po daily  
omeprazole 20mg po daily  
coumadin  

 
Discharge Medications:
1. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
5. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
6. Nitroglycerin 0.4 mg/hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal Q24H (every 24 hours).  
7. Coumadin 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Glipizide 10 mg Tab,Sust Rel Osmotic Push 24hr Sig: One (1) 
Tab,Sust Rel Osmotic Push 24hr PO once a day.  
9. Lovastatin 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Fatigue and neck/back pain

Secondary
CAD s/p multiple MIs with stents to LCx and OM 1
HTN
persistent afib on coumadin
Dyslipidemia
Diabetes, type 2
 
Discharge Condition:
Patient was discharged in stable condition.

 
Discharge Instructions:
1. You were admitted with fatigue and neck/back pain. We 
determined that you were not having a heart attack. You had a 
stress test during your admission that was unchanged from your 
prior stress test in ___. You will need to follow-up with your 
outpatient cardiologist and your PCP.

2. Unless otherwise indicated, you should resume all of your 
home medications as taken prior to admission. It is very 
important that you take all of your medications as prescribed.

3. It is very important that you keep all of your doctor's 
appointments.

4. if you develop chest pain, shortness of breath, or other 
concerning symptoms, please call your doctor or go to your local 
Emergency Department immediately.

5. Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet.
 
Followup Instructions:
___